US09388176B2
2-(4-nitrophenyl)-1,2,3,4-tetrahydro-2,7-naphthyridine
Commercially available 1,2,3,4-tetrahydro-2,7-naphthyridine hydrochloride (14.5 g; 0.085 moles), 4-fluoronitrobenzene (18.0 g; 0.13 moles) and potassium carbonate (37.5 g, 0.27 moles) in anhydrous DMF (100 mL) were heated at 80° C. for 18 hours, cooled and partitioned between ethyl acetate (500 mL) and water (1 L). The layers were separated and the aqueous layer re-extracted with ethyl acetate (300 mL). The combined organic layers were washed with water (400 mL), brine, dried over sodium sulfate and evaporated in vacuo. Chromatography of the residue on silica (250 g) eluting with 20% ethyl acetate in DCM then 7.5% methanol in ethyl acetate gave the title compound (15 g) as an orange solid.

reactant | 1,2,3,4-tetrahydro-2,7-naphthyridine hydrochloride | 0.085 moles, 14.5 g | Cl.C1NCCC2=CC=NC=C12
reactant | 4-fluoronitrobenzene | 0.13 moles, 18.0 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 0.27 moles, 37.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-(4-nitrophenyl)-1,2,3,4-tetrahydro-2,7-naphthyridine | 15 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CC2=CN=CC=C2CC1 | C14H13N3O2
